US09079878B2
2-Oxo-2-[4-(trifluoromethoxy)phenyl]ethyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}butanoate
Prepared by Method E using 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}butanoic acid (Preparation 27, 2.658 g, 10.1 mmol) and 2-bromo-1-[4-(trifluoromethoxy)phenyl]-ethanone (3.14 g, 11.1 mmol). The reaction was stirred at room temperature for 3 hours. The residue was purified by silica gel column chromatography to afford the title compound (3.435 g, 73% yield).

reactant | 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}butanoic acid | 10.1 mmol, 2.658 g | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)O)CC | C11H21NO4S
reactant | 2-bromo-1-[4-(trifluoromethoxy)phenyl]-ethanone | 11.1 mmol, 3.14 g | BrCC(=O)C1=CC=C(C=C1)OC(F)(F)F | C9H6BrF3O2
product | 2-Oxo-2-[4-(trifluoromethoxy)phenyl]ethyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}butanoate | 3.435 g, 73% yield | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)OCC(C1=CC=C(C=C1)OC(F)(F)F)=O)CC | C20H26F3NO6S
